US07910592B2
To a solution of ethyl 4-(3-chloro-4-fluorophenyl)cyclohex-3-ene-1-carboxylate (270 mg, 0.955-mmoL) in EtOAc (15 mL) was added 10% Pd/C (45 mg). The reaction was put under an atmosphere of H2 (balloon) and stirred vigorously at room temperature. After 30 min, the catalyst was removed by filtration, and the filtrate was concentrated to afford a mixture of cis and trans products. The desired trans isomer was separated by flash chromatography on silica gel (0 to 10% EtOAc/hexanes) to afford ethyl trans-4-(3-chloro-4-fluorophenyl)cyclohexanecarboxylate. Rf=0.25 (5% EtOAc/hexanes). 1H NMR (500 MHz, CDCl3): δ 7.21 (d, J=7.3 Hz, 1H), 7.02-7.06 (m, 2H), 4-14 (q, J=7.1 Hz, 2H), 2.48 (m, 1H), 2.32 (m, 1H), 2.08-2.12 (m, 2H), 1.91-1.98 (m, 2H), 1.53-1.67 (m, 2H), 1.37-1.46 (m, 2H), 1.27 (t, J=7.1 Hz, 3H).

reactant | ethyl 4-(3-chloro-4-fluorophenyl)cyclohex-3-ene-1-carboxylate | 270 mg | ClC=1C=C(C=CC1F)C1=CCC(CC1)C(=O)OCC | C15H16ClFO2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 45 mg | [Pd] | Pd
product | ethyl trans-4-(3-chloro-4-fluorophenyl)cyclohexanecarboxylate | ClC=1C=C(C=CC1F)[C@@H]1CC[C@H](CC1)C(=O)OCC | C15H18ClFO2
